US09388173B2
Step 1: 3-(1-methyl-1H-benzo[d]imidazol-6-yl)aniline
To a solution of 6-bromo-1-methyl-1H-benzo[d]imidazole (500 mg, 2.37 mmol) in dioxane (10 mL) was added (3-aminophenyl)boronic acid (320 mg, 2.34 mmol), 2N K2CO3 (2 mL, 4 mmol) and PdCl2(dppf) (50 mg, 0.063 mmol). The reaction mixture was heated at 120° C. under microwave conditions for 30 min. The cooled mixture was concentrated under reduced pressure and the residue dissolved in ethyl acetate, washed with water with the separated organic layers being dried and concentrated to afford the desired product as a brown solid (300 mg, 56.7%). LCMS (m/z): 224.1 [M+H]+

reactant | 6-bromo-1-methyl-1H-benzo[d]imidazole | 2.37 mmol, 500 mg | BrC=1C=CC2=C(N(C=N2)C)C1 | C8H7BrN2
reactant | (3-aminophenyl)boronic acid | 2.34 mmol, 320 mg | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | K2CO3 | 4 mmol, 2N, 2 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.063 mmol, 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1-methyl-1H-benzo[d]imidazol-6-yl)aniline | 300 mg, 56.7% | CN1C=NC2=C1C=C(C=C2)C=2C=C(N)C=CC2 | C14H13N3
